US04814345
2-[3-(N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-benzyloxy-1-phenylindole
10.5 g of N-phenyl-3-benzyloxyindole-2-carboxylic acid are reacted with 4.5 g of 2-chloro-N-pyridinium iodide, 4.2 ml of triethylamine and 2.5 g of 1-amino-2-hydroxy-3-diethylaminopropane in 45 ml of methylene chloride at room temperature, After 14 h, the reaction mixture is washed with a saturated solution of sodium chloride and with a 10% sodium carbonate solution, dried over sodium sulfate, filtered and evaporated. The residue is dissolved in dilute hydrochloric acid/ether and the ether phase separated. The aqueous phase is made alkaline and extracted with ether. The ether extract is washed with water, dried over sodium sulfate and evporated. The raw 2-[3-N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-benzyloxy-1-phenylindole is recrystallized from isopropanol/ether. Melting point: 80°-81° C.

reactant | N-phenyl-3-benzyloxyindole-2-carboxylic acid | 10.5 g | C1(=CC=CC=C1)N1C(=C(C2=CC=CC=C12)OCC1=CC=CC=C1)C(=O)O | C22H17NO3
reactant | 2-chloro-N-pyridinium iodide | 4.5 g | [I-].ClC1=[NH+]C=CC=C1
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | 1-amino-2-hydroxy-3-diethylaminopropane | 2.5 g | NCC(CN(CC)CC)O | C7H18N2O
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-(N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-benzyloxy-1-phenylindole | C(C)N(CC)CC(CNC(=O)C=1N(C2=CC=CC=C2C1OCC1=CC=CC=C1)C1=CC=CC=C1)O | C29H33N3O3
